US08859574B2
To a mixture of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (0.12 mmol), di-isopropylethylamine (50 uL, 0.36 mmol) and HATU (55 mg, 0.14 mmol) in DMF (1.5 mL) was added 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid (29 mg, 0.14 mmol). After stirring at room temperature for 4 hours, the mixture was diluted with methanol (1 mL) and conc. aqueous HCl (1 mL). The mixture was stirred at 50° C. for 30 min. The mixture was filtered and purified by preparative RP-HPLC to give azetidin-3-yl(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)methanone as white solid. 1H NMR (400 MHz, MeOD-d4) δ 8.08 (s, 1H), 7.68 (d, 2H), 7.04 (d, 2H), 6.26 (s, 1H), 4.74-4.68 (m, 2H), 4.39-4.35 (m, 1H), 4.29-4.24 (m, 2H), 4.11-4.07 (m, 1H), 3.74-3.71 (m, 1H), 3.25-3.24 (m, 1H), 3.07-3.04 (m, 1H), 2.87-2.80 (m, 1H), 2.33 (s, 3H), 2.28 (s, 3H), 1.87-1.84 (m, 2H), 1.66-1.56 (m, 2H); ESMS m/z 499.2 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.12 mmol | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | di-isopropylethylamine | 0.36 mmol, 50 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.14 mmol, 55 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid | 0.14 mmol, 29 mg | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | methanol | 1 mL | CO | CH4O
solvent | HCl | 1 mL | Cl | ClH
product | azetidin-3-yl(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)methanone | N1CC(C1)C(=O)N1CCC(CC1)C1=C(C=C(C(=C1)F)NC1=NC=C(C(=N1)NC1=NNC(=C1)C)Cl)C | C24H28ClFN8O
